US07994203B2
1-(2-Methyl-4-methylsulfanyl-phenyl)-propan-1-one
To a solution of EtMgBr (11.90 ml, 35.72 mmol) in toluene (40 ml) at 0° C. is added 2-Methyl-4-methylsulfanyl-benzonitrile (2.43 g, 14.89 mmol) in toluene dropwise over 30 mins. The reaction is then left to reach RT overnight with stirring. After this time, the contents are poured into ice, conc. H2SO4 (3 ml) is added and the contents are vigorously stirred for 4 hrs at RT. The misture is extracted into EtOAc, washed with H2O, brine, dried (MgSO4) and concentrated in vacuo to give a yellow solid; MS m/z=195.1 [M+H]+; H NMR 400.13 MHz (CDCl3) −7.09 (2H, m), 2.41 (2H, q), 2.52 (6H, s), 1.20 (3H, t).

reactant | EtMgBr | 35.72 mmol, 11.90 ml | CC[Mg+].[Br-]
reactant | 2-Methyl-4-methylsulfanyl-benzonitrile | 14.89 mmol, 2.43 g | CC1=C(C#N)C=CC(=C1)SC | C9H9NS
reactant | H2SO4 | 3 ml | OS(=O)(=O)O | H2O4S
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(2-Methyl-4-methylsulfanyl-phenyl)-propan-1-one | CC1=C(C=CC(=C1)SC)C(CC)=O | C11H14OS
